US05688815
3-Hydroxy-2-(hydroxy-pyridin-2-yl-methyl)-1-methyl-1H-pyridin-4-one
3-Benzyloxy-2-(hydrox-pyridin-2-yl-methyl-1-methyl-1H-pyridin-4-one: From 2.5 g of 3-benzyloxy-1-methyl-2-[pyridin-2-yl-(tetrahydropyran-2-yloxy)-methyl]-1H-pyridin-4-one there is obtained analogously to Example 7b: 3-benzyloxy-2-(hydroxy-pyridin-2-yl-methyl)-1-methyl-1H-pyridin-4-one. Yellow resin. Rf value: 0.52 (silica gel 60, dichloromethane/ethanol 4/1).

reactant | 3-benzyloxy-2-(hydroxy-pyridin-2-yl-methyl)-1-methyl-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)C)C(C1=NC=CC=C1)O | C19H18N2O3
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-Hydroxy-2-(hydroxy-pyridin-2-yl-methyl)-1-methyl-1H-pyridin-4-one | OC1=C(N(C=CC1=O)C)C(C1=NC=CC=C1)O | C12H12N2O3
